US05117057
S-(thiobenzoyl)thioglycolic acid (3.0 g) was dissolved in 20 ml pyridine, treated with t-butyl hydrazine hydrochloride (excess, ca. 4 g) and then was heated at ca. 120° C. for 14 hours. Water (120 ml) was added and the mixture was extracted with ether. The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated to give crude N'-t-butyl-N-(thiobenzoyl)hydrazine as a viscous yellow oil.

reactant | S-(thiobenzoyl)thioglycolic acid | 3.0 g | C(C1=CC=CC=C1)(=S)SCC(=O)O | C9H8O2S2
reactant | t-butyl hydrazine hydrochloride | ca. 4 g | Cl.C(C)(C)(C)NN
reactant | Water | 120 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N'-t-butyl-N-(thiobenzoyl)hydrazine | C(C)(C)(C)NNC(C1=CC=CC=C1)=S | C11H16N2S
